US04113940
Acetic acid (8 ml) and zinc powder (6 g) were added under stirring and ice-cooling to a solution of 2,2,2-trichloroethyl 2-methyl-7-[2-(1,3,4-thiadiazol-2-ylthio)acetamido]-3-cephem-4-carboxylate (4.65 g) in anhydrous dimethylformamide (30 ml), and the mixture was stirred for 1 hour at the same temperature. After the reaction, ethyl acetate (150 ml) was added to the reaction mixture. The insoluble material was filtered off, and the filtrate was washed with 5% hydrochloric acid saturated with sodium chloride, and then extracted with a sodium bicarbonate aqueous solution. The extract was acidified with 10% hydrochloric acid and extracted with ethyl acetate, after which the ethyl acetate layer was washed with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. After the solvent was distilled off, the residue was recrystallized from a mixture of ethyl acetate and benzene to give 2-methyl-7-[2-(1,3,4-thiadiazol-2-ylthio)acetamido]-3-cephem-4-carboxylic acid (1.5 g), mp 197° to 199° C.

reactant | Acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-methyl-7-[2-(1,3,4-thiadiazol-2-ylthio)acetamido]-3-cephem-4-carboxylate | 4.65 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CSC=2SC=NN2)=O)=O | C14H13Cl3N4O4S3
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 6 g | [Zn] | Zn
product | 2-methyl-7-[2-(1,3,4-thiadiazol-2-ylthio)acetamido]-3-cephem-4-carboxylic acid | 1.5 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CSC=2SC=NN2)=O)=O | C12H12N4O4S3
